US04783472
A solution of N-[3-(2-ethoxycarbonylbenzoyl)phenyl]- 3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (4.4 g) and potassium hydroxide pellets (1.8 g) in a mixture of ethanol (100 cc) and distilled water (50 cc) is stirred at a temperature in the vicinity of 20° C. for 3 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. The residue is dissolved in distilled water (350 cc) and the solution obtained is adjusted to a pH in the region of 4 by adding an aqueous 4N acetic acid solution. The crystals formed are separated by filtration, washed 5 times with distilled water (500 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. A crude product (3.5 g) is thereby obtained, which is dissolved in a boiling mixture (200 cc) of butan-1-ol and dimethylformamide (35:65 by volume). Decolourizing charcoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate is cooled at a temperature in the vicinity of 4° C. for 3 days. The crystals formed are separated by filtration, washed 3 times with a mixture (30 cc in total) of butan-1-ol and dimethylformamide (35:65 by volume), 3 times with ethanol (90 cc in total) and 3 times with diethyl ether (90 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. N-[3-(2-carboxybenzoyl) phenyl]-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (1.8 g) in the form of white crystals, m.p. 315° C. is thereby obtained.

reactant | N-[3-(2-ethoxycarbonylbenzoyl)phenyl]- 3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 4.4 g | C(C)OC(=O)C1=C(C(=O)C=2C=C(C=CC2)NC(=O)C=2C=CN3C(SCC32)C=3C=NC=CC3)C=CC=C1 | C28H23N3O4S
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetic acid | 4N | C(C)(=O)O | C2H4O2
reactant | charcoal | 0.5 g | C | CH4
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | butan-1-ol | 200 cc | C(CCC)O | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[3-(2-carboxybenzoyl) phenyl]-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 1.8 g | C(=O)(O)C1=C(C(=O)C=2C=C(C=CC2)NC(=O)C=2C=CN3C(SCC32)C=3C=NC=CC3)C=CC=C1 | C26H19N3O4S
